US05968985
A mixture of 4-bromo-2-hydroxymethylbenzofuran (0.3 g) and manganese dioxide (0.75 g) in ethyl acetate (3 ml) was heated to reflux for 4 hours. Manganese dioxide was removed by filtration and washed with ethyl acetate. Ethyl acetate was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (5:1) to give 4-bromo-2-formylbenzofuran (0.24 g).

reactant | 4-bromo-2-hydroxymethylbenzofuran | 0.3 g | BrC1=CC=CC2=C1C=C(O2)CO | C9H7BrO2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 0.75 g | [O-2].[O-2].[Mn+4]
product | 4-bromo-2-formylbenzofuran | 0.24 g | BrC1=CC=CC2=C1C=C(O2)C=O | C9H5BrO2
